US04448776
5.3 g of N,N'-di-(o-methylbenzylidene)-ethylenediamine, dissolved in 75 ml of tetrahydrofuran, are added dropwise to a suspension of 2.0 g of lithium aluminium hydride in 30 ml of tetrahydrofuran. The mixture is heated under reflux for 30 minutes, the excess of reducing agent is decomposed with water while cooling with ice, the whole is poured into 200 ml of sodium hydroxide solution (10% by weight) and extracted 3 times by shaking with 150 ml of diethyl ether each time. From the combined diethyl ether extracts the hydrochloride is precipitated, in form of a white powder, by adding a solution of hydrogen chloride in diethyl ether. The hydrochloride is separated by filtration, shaken with 150 ml of diethyl ether and 150 ml of 10% sodium hydroxide solution. The ether phase is dried over magnesium sulphate and concentrated to dryness by evaporation. The residue is recrystallised from ethyl acetate. N,N'-di-(o-methylbenzyl)-ethylenediamine having a meltinp point of 38°-39° C. is obtained.

reactant | N,N'-di-(o-methylbenzylidene)-ethylenediamine | 5.3 g | CC1=C(C=NCCN=CC2=C(C=CC=C2)C)C=CC=C1 | C18H20N2
reactant | lithium aluminium hydride | 2.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | sodium hydroxide | 200 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N,N'-di-(o-methylbenzyl)-ethylenediamine | CC1=C(CNCCNCC2=C(C=CC=C2)C)C=CC=C1 | C18H24N2
